US08044052B2
Synthesis of 4-(3-(5-(2,2,2-trifluoroethoxy)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide
To a solution of 2-(3-(piperidin-4-ylidenemethyl)phenoxy)-5-(2,2,2-trifluoroethoxy)pyridine (0.14 g, 0.38 mmol) in DMSO (3 mL) was added phenyl pyridin-3-ylcarbamate (0.082 g, 0.38 mmol) followed by triethylamine (0.235 mL, 1.692 mmol). The resulting mixture was stirred at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic extract was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (30% acetone, 70% hexane) to give the title compound (0.13 g, 70%). 1H NMR (500 MHz, CDCl3): δ 8.74 (s, 1H), 8.30 (d, J=7.2 Hz, 1H), 8.22 (d, J=4.4 Hz, 1H), 7.91 (d, J=8.2 Hz, 1H), 7.32 (m, 4H), 7.02 (d, J=7.5 Hz, 1H), 6.95 (d, J=9 Hz, 1H), 6.95 (s, 1H), 6.90 (d, J=8.8 Hz, 1H), 6.39 (s, 1H), 4.33 (q, J=7.8 Hz, 2H), 3.65 (m, 2H), 3.55 (m, 2H), 2.60 (m, 2H), 2.47 (m, 2H). 13C NMR (125 MHz, CDCl3): δ 158.96, 154.56, 154.45, 150.43, 143.12, 140.48, 138.89, 137.80, 136.56, 134.41, 129.49, 127.96, 125.08, 124.74, 123.80, 121.02, 118.77, 112.57, 67.33, 67.05, 45.75, 44.70, 35.74, 29.16; m/z (485.1, M+ H+); HPLC: 93.6%.

reactant | 2-(3-(piperidin-4-ylidenemethyl)phenoxy)-5-(2,2,2-trifluoroethoxy)pyridine | 0.38 mmol, 0.14 g | N1CCC(CC1)=CC=1C=C(OC2=NC=C(C=C2)OCC(F)(F)F)C=CC1 | C19H19F3N2O2
reactant | phenyl pyridin-3-ylcarbamate | 0.38 mmol, 0.082 g | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | triethylamine | 1.692 mmol, 0.235 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(5-(2,2,2-trifluoroethoxy)pyridin-2-yloxy)benzylidene)-N-(pyridin-3-yl)piperidine-1-carboxamide | 0.13 g, 70% | FC(COC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2C=NC=CC2)C=CC1)(F)F | C25H23F3N4O3
